US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid and methyl L-alaninate and suitable processing produces methyl N-[N-(p-chlorobenzoyl)-4-(2,6dimethylanilino)butyryl]-L-alaninate (M.P. 91° to 92°), saponification of which and processing of the reaction product yields N-[N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyryl]-L-alanine (M.P. 159° to 161°).

reactant | N-(p-chlorobenzoyl)-4-(2,6-dimethylanilino)butyric acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)O)C=C1 | C19H20ClNO3
reactant | methyl L-alaninate | N[C@@H](C)C(=O)OC | C4H9NO2
product | methyl N-[N-(p-chlorobenzoyl)-4-(2,6dimethylanilino)butyryl]-L-alaninate | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CCCC(=O)N[C@@H](C)C(=O)OC)C=C1 | C23H27ClN2O4
